US05705662
(E,E)-17β-(3-Guanidinoimino-2-methyl-1-propenyl)-5β-androstane-3β,14β-diol (I-aa)
A mixture of 0.50 g of aminoguanidine hydrogencarbonate in 10 ml of water and 30 ml of dioxane was made acid to pH 3 with 3N HCl. A solution of 0.95 g of (E)-3β,14β-dihydroxy-21-methyl-5β-pregn-20-ene-21-carboxaldehyde (Prepn. 1) in 10 ml of dioxane was added at room temperature. After 3 days the mixture was evaporated to dryness under reduced pressure. The crude product was purified by flash chromatography (SiO2) using chloroform/methanol/28% ammonium hydroxide 80/20/3 as the eluant: the fractions containing the title compound were collected and evaporated to dryness. The residue was ground with diethyl ether and ethanol to give 0.75 g of the title compound (I-aa) as a white solid.

reactant | aminoguanidine hydrogencarbonate | 0.50 g | C(O)(O)=O.NNC(=N)N
reactant | HCl | 3N | Cl | ClH
reactant | (E)-3β,14β-dihydroxy-21-methyl-5β-pregn-20-ene-21-carboxaldehyde | 0.95 g | O[C@@H]1C[C@H]2CC[C@H]3[C@]4(CC[C@H](/C=C(/C=O)\C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)O | C23H36O3
solvent | water | 10 ml | O | H2O
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | (E,E)-17β-(3-Guanidinoimino-2-methyl-1-propenyl)-5β-androstane-3β,14β-diol | 0.75 g | N(C(=N)N)\N=C\C(=C\[C@@H]1[C@]2(C)[C@](CC1)([C@@H]1CC[C@@H]3C[C@H](CC[C@]3(C)[C@H]1CC2)O)O)\C | C24H40N4O2
